US04465834
Preparation of Ethyl α-Phenyl-α-phenylethynylglycolate
A solution of phenylacetylene (11.2 g., 0.1 mole) in 25 ml. of anhydrous ether was added over a 45 minute period to a suspension of ethylmagnesium bromide (0.1 mole) prepared from magnesium (2.4 g., 0.1 g. atom) and ethyl bromide (10.9 g., 0.1 mole) in 100 ml. of ether. The mixture was stirred overnight. The resultant phenylethynylmagnesium bromide suspension was subsequently added dropwise through a stop-cock at the base of the flask to a solution of ethyl phenylglyoxylate (17.8 g., 0.1 mole) in 100 ml. of dry ether at 0°-5° over a two hour period. The cooling bath was removed and the mixture stirred for five hours. The reaction mixture was kept overnight, then poured on a slurry of ice and concentrated hydrochloric acid and extracted with ether. The ether extracts were dried and the solvent distilled in vacuo. The resultant oil was distilled to give 14.5 g. (52%) of product, b.p. 170°-82° (0.25 mm.). An analytical sample distilled at 156°-58° (0.08 mm.).

reactant | phenylacetylene | 0.1 mole, 11.2 g | C1(=CC=CC=C1)C#C | C8H6
reactant | ethylmagnesium bromide | 0.1 mole | C(C)[Mg]Br
reactant | magnesium | 2.4 g | [Mg] | Mg
reactant | ethyl bromide | 0.1 mole, 10.9 g | C(C)Br | C2H5Br
reactant | phenylethynylmagnesium bromide | C1(=CC=CC=C1)C#C[Mg]Br
reactant | ethyl phenylglyoxylate | 0.1 mole, 17.8 g | C1(=CC=CC=C1)C(C(=O)OCC)=O | C10H10O3
solvent | ether | CCOCC | C4H10O
product | Ethyl α-Phenyl-α-phenylethynylglycolate | C1(=CC=CC=C1)C(C(=O)OCC)(O)C#CC1=CC=CC=C1 | C18H16O3
